Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Benadryl / morphine / clonidine / trazodone / Statins-Hmg-Coa 
Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
cool, painful right hand
 
Major Surgical or Invasive Procedure:
right carotid to right brachial artery bypass with left greater 
saphenous vein ___
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a complex past medical 
history of right subclavian arterial thromboembolic disease 
requiring sublcavian stenting, several thromboembolectomies, and 
recent right common carotid to brachial bypass. She presents 
today with a ~5 day history of a cool, painful right hand. She 
says that the symptoms started prior to ___, 
when she noticed she was unable to lift a ___ due to right 
hand weakness. She reports that since that time she has noticed 
worsening pain of the right hand which shoots up to the 
shoulder. She also endorses worsening weakness of the right hand 
as well as bluish duskiness and coolness of the fingers and palm 
of the right hand. She reports being seen today by her ___ who 
recommends that she present to ___ for 
evaluation. She is transferred from ___ for evaluation.

She denies confusion, fevers, chills, nausea, vomiting, chest
pain, shortness of breath, abdominal pain, changes in bowel
habits or dysuria. 
 
Past Medical History:
Asthma, HTN, Adrenal cyst in the 1980s (per patient report), R 
adrenal adenoma, Peripheral vascular disease, stroke, R 
subclavian vein, DVT ___.
PSH: Hysterectomy early her ___, Bladder suspension ___, 
Cosmetic facelift ___, ORIF at ___ of old R clavicle nonunion 
___  
R-to-L fem-fem bypass ___ (___),  
Right subclavian vein DVT thrombolysis ___ (___)  
___ RUE Embolectomy, Subclavian artery stent, brachial 
artery bypass with saphenous vein graft   
___ R medial thigh wound I&D (was incision used to harvest 
GSV conduit for arm surgery),   
___ Right brachial artery cutdown and thromboembolectomy of 
the subclavian artery with angioplasty/stenting 
___: left fem->right SFA bypass with left EIA stenting 
___: Right subclavian, axillary, and brachial thrombectomy 
and right subclavian balloon angioplasty and stenting 

 
 

 
Social History:
___
Family History:
Significant for heart disease
 
Physical Exam:
Admission Physical Exam:
Vitals:  Afebrile,    66,      112/81,      11,       100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND
Ext: Cool R hand, pale, poor capillary refill, poor intrinsic
right hand motor function; RUE compartments soft with mild TTP
over right forearm 
Pulses: Doppler signal + in LEFT radial artery; Doppler signal
absent in RIGHT radial and ulnar arteries; Dopplerable signal is
detected at the mid right forearm at the distal aspect of
previous surgical scar, which is well healed

Discharge Physical Exam:
 
Pertinent Results:
CTA ___
Complete thrombosis of both bypass grafts in the right shoulder, 
as seen on prior.  Minimal enhancement of arteries in the right 
arm from tiny collateral branches originating from the proximal 
right subclavian artery, similar to ___.
 
Brief Hospital Course:
___ was admitted ___. A CTA showed occlusion 
of her carotid to subclavian bypass. She was started on a 
heparin drip and underwent vein mapping on ___. A PICC was 
placed ___ as she had difficult peripheral IV access, and 
she underwent a right carotid to brachial bypass with left GSV 
on ___, after which she had a palpable right radial pulse. 
On POD1 her hematocrit was 19 for which she received 2 units of 
pack red blood cells, and required no further transfusion for 
the remainder of her hospitalization. Pain control was a primary 
issue postoperatively, for which Chronic Pain Service was 
consulted and their recommendations were appreciated. Her 
___ was restarted ___, and was discharged ___ 
afebrile and hemodynamically stable with follow up in the 
Vascular Surgery Clinic.
 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
AMLODIPINE - Dosage uncertain -  (Prescribed by Other Provider)
GABAPENTIN - gabapentin 300 mg capsule. 3 capsule(s) by mouth
three times a day 900mg po TID
OXYCODONE - oxycodone 10 mg tablet. 1 tablet(s) by mouth every 4
hours as needed for pain. One week supply Override script.
Discussed with PCP ___ [XARELTO] - Xarelto 20 mg tablet. 1 tablet(s) by
mouth once a day
ROSUVASTATIN [CRESTOR] - Crestor 20 mg tablet. 1 tablet(s) by
mouth daily REFILLS PER PCP -  (Not Taking as Prescribed)
TIZANIDINE - tizanidine 2 mg capsule. 1 capsule(s) by mouth 3x
per day po -  (Prescribed by Other Provider) (Not Taking as
Prescribed)
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth daily -  (Prescribed by Other Provider)
FERROUS SULFATE - ferrous sulfate 325 mg (65 mg iron) tablet. 1
(One) tablet(s) by mouth twice a day -  (Prescribed by Other
Provider; Dose adjustment - no new Rx)
MULTIVITAMIN [DAILY MULTIPLE] - Daily Multiple tablet. 1 (One)
tablet(s) by mouth once a day -  (Prescribed by Other Provider;
Dose adjustment - no new Rx)
NICOTINE (POLACRILEX) - nicotine (polacrilex) 4 mg buccal
lozenge. suck on candy q 2 hours as needed
NICOTINE [NICODERM CQ] - Nicoderm CQ 21 mg/24 hr daily
transdermal patch. apply to skin daily Rotate site daily.
--------------- --------------- --------------- ---------------
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight hours 
Disp #*120 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth two 
times a day Disp #*60 Capsule Refills:*2 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 8 mg 1 tablet(s) by mouth every 
four hours Disp #*48 Tablet Refills:*0 
4.  LORazepam 0.5 mg PO QHS:PRN sleep 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth at night Disp 
#*5 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY

+ home meds 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*2 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
occluded carotid-subclavian bypass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
_x0095_ You should get up out of bed every day and gradually increase 
your activity each day 
_x0095_ Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
_x0095_ Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
_x0095_ Elevate your arm above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
_x0095_ Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
_x0095_ You will probably lose your taste for food and lose some 
weight 
_x0095_ Eat small frequent meals
_x0095_ It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
_x0095_ To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
_x0095_ Take aspirin as instructed 
_x0095_ Follow your discharge medication instructions

ACTIVITIES:
_x0095_ No driving until post-op visit and you are no longer taking 
pain medications
_x0095_ Unless you were told not to bear any weight on operative arm: 
_x0095_ You should get up every day, get dressed and walk
_x0095_ You should gradually increase your activity
_x0095_ You may up and down stairs, go outside and/or ride in a car
_x0095_ Increase your activities as you can tolerate- do not do too 
much right away!
_x0095_ No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
_x0095_ You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
_x0095_ Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
_x0095_ Redness that extends away from your incision
_x0095_ A sudden increase in pain that is not controlled with pain 
medication
_x0095_ A sudden change in the ability to move or use your arm or the 
ability to feel your arm
_x0095_ Temperature greater than 100.5F for 24 hours
_x0095_ Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___